US07884109B2
Synthesis of (R)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-amine
(R)-1-azido-7-fluoro-1,2,3,4-tetrahydronaphthalene (4.85 g) was dissolved in methanol (70 mL) and mixed with Pd/C (10%, wet, 485 mg), applied to Parr apparatus under H2 (35 psi) overnight. The catalyst was removed by filtration and washed twice with MeOH. The filtrate and washings were combined and evaporated under reduced pressure to give a yellow oil product (3.82 g, 91%). 1H NMR (400 MHz, DMSO-d6) δ 7.28 (dd, 1H), 7.06 (t, 1H), 6.91 (m, 1H), 3.74-3.76 (m, 1H), 2.60-2.72 (m, 2H), 2.10 (broad, 2H), 1.80-1.90 (m, 2H), 1.45-1.67 (m, 2H). 19F NMR (400 MHz, DMSO-d6) δ −117.6.

reactant | (R)-1-azido-7-fluoro-1,2,3,4-tetrahydronaphthalene | 4.85 g | N(=[N+]=[N-])[C@@H]1CCCC2=CC=C(C=C12)F | C10H10FN3
solvent | methanol | 70 mL | CO | CH4O
catalyst | Pd/C | 485 mg | [Pd] | Pd
product | (R)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-amine | 3.82 g, 91% | FC1=CC=C2CCC[C@H](C2=C1)N | C10H12FN
